US07615642B2
Step C: 1-({2-tert-Butyl-1-[(trans-4-fluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)-1H-pyrazole-4-carboxylic acid
1-({2-tert-Butyl-1-[(trans-4-fluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)-1H-pyrazole-4-carbaldehyde (130 mg, 0.291 mmol) and oxone (215 mg, 0.349 mmol) were stirred in 10 mL of DMF at rt overnight. The solvent was evaporated. The residue was dissolved in DCM and washed with water, brine and dried over anhydrous MgSO4. Yield: 135 mg (99%). MS (ESI) (M+H)+=463.06.

reactant | 1-({2-tert-Butyl-1-[(trans-4-fluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)-1H-pyrazole-4-carbaldehyde | 0.291 mmol, 130 mg | C(C)(C)(C)C1=NC2=C(N1C[C@@H]1CC[C@H](CC1)F)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C=O | C22H27FN4O3S
reactant | oxone | 0.349 mmol, 215 mg | OOS(=O)[O-].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-({2-tert-Butyl-1-[(trans-4-fluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)-1H-pyrazole-4-carboxylic acid | C(C)(C)(C)C1=NC2=C(N1C[C@@H]1CC[C@H](CC1)F)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C(=O)O | C22H27FN4O4S
